US05274143
Process for the Preparation of Phenyl-(R)-3-(2-Bromo-1-Oxooctyloxy)Tetradecanoate
A mixture of 1.02 g phenyl-(R)-3-hydroxytetradecanoate (3.19 mmol), 22 mL dichloromethane, 0.74 g 2-bromooctanoic acid (3.19 mmol), 0.66 g N,N'-dicyclohexylcarbodiimide (3.20 mmol) and 0.39 g 4-dimethylaminopyridine (3.19 mmol) was stirred at room temperature for 1.5 hours. The solution was then concentrated to dryness on a rotary evaporator (ca. 26 mm Hg, 30° C.). 25 mL hexanes was added to the white powdery residue and the resultant mixture was stirred at room temperature for 5 minutes. The slurry was filtered through a coarse sintered glass funnel and the solids were washed with 2×20 mL hexanes. The combined filtrates were placed in a separatory funnel and washed with 2×50 mL 1M HCL, 2×50 mL 10% saturated sodium bicarbonate and 2×50 mL city water. The organic layer was dryed over magnesium sulfate, then gravity filtered through paper, and concentrated on a rotary evaporator (ca. 10 mm Hg, 30° C.). The residue was chromatographed on a 2' by 1" column slurry packed with silica gel (80 g) in hexanes. Product was eluted with 50/50 hexanes and dichloromethane. The chromatography was monitored by TLC (silica gel, 50/50 hexanes: dichloromethane, phosphomolybidic acid visualization). Fractions containing only product were pooled and concentrated on a rotary evaporator (ca. 100 mm Hg, 30° C.). A cloudy oil (0.98 g, 58% yield) was obtained.

reactant | phenyl-(R)-3-hydroxytetradecanoate | 3.19 mmol, 1.02 g | C1(=CC=CC=C1)OC(C[C@@H](CCCCCCCCCCC)O)=O | C20H32O3
reactant | 2-bromooctanoic acid | 3.19 mmol, 0.74 g | BrC(C(=O)O)CCCCCC | C8H15BrO2
reactant | N,N'-dicyclohexylcarbodiimide | 3.20 mmol, 0.66 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 3.19 mmol, 0.39 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 22 mL | ClCCl | CH2Cl2
product | Phenyl-(R)-3-(2-Bromo-1-Oxooctyloxy)Tetradecanoate | 0.98 g, 58% yield | C1(=CC=CC=C1)OC(C[C@@H](CCCCCCCCCCC)OC(C(CCCCCC)Br)=O)=O | C28H45BrO4
